US07157487B2
To methyl (7-fluoro-2-(1-isoquinolinyl)-6-benzoxazolyl)acetate (155 mg, 0.46 mmol) were added THF (3 ml) and 0.5N NaOH (3.0 ml, 1.50 mmol). The resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was poured in ice-1N HCl to acidify the mixture therewith. The crystals thus precipitated were collected by filtration under reduced pressure, washed with water and dried under reduced pressure to give (7-fluoro-2-(1-isoquinolinyl)-6-benzoxazolyl)acetic acid (116 mg, 78%) as a brown solid.

reactant | methyl (7-fluoro-2-(1-isoquinolinyl)-6-benzoxazolyl)acetate | 0.46 mmol, 155 mg | FC1=C(C=CC=2N=C(OC21)C2=NC=CC1=CC=CC=C21)CC(=O)OC | C19H13FN2O3
reactant | NaOH | 1.50 mmol, 0.5N, 3.0 ml | [OH-].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | (7-fluoro-2-(1-isoquinolinyl)-6-benzoxazolyl)acetic acid | 116 mg, 78% | FC1=C(C=CC=2N=C(OC21)C2=NC=CC1=CC=CC=C21)CC(=O)O | C18H11FN2O3
